US09382188B2
A) (((4-bromo-1,3-phenylene)bis(oxy))bis(methylene))dibenzene
To a solution of 4-bromoresorcinol (10.0 g) and potassium carbonate (21.9 g) in DMF (100 mL) was added benzyl bromide (13.2 mL), and the mixture was stirred at room temperature for 4 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (21.8 g) as a crude oil. This compound was used for the next step without further purification.

reactant | 4-bromoresorcinol | 10.0 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | potassium carbonate | 21.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 13.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (((4-bromo-1,3-phenylene)bis(oxy))bis(methylene))dibenzene | 21.8 g | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C20H17BrO2
